US07622466B2
b) 5-(3-Piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Ethyl Ester
The suspension consistent of 0.20 g (0.71 mmol) 5-(3-chloro-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester, 0.12 g (0.85 mmol) potassium carbonate, 0.12 g (0.71 mmol) potassium iodide and 84 ml (72 μg, 0.85 mmol) piperidine was heated under reflux for 17 hours. After cooling down to room temperature the reaction mixture was poured on water and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give 0.16 g (68%) of the desired compound as a light yellow solid.

reactant | 5-(3-chloro-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 0.71 mmol, 0.20 g | C(C)OC(=O)C1=CC=2C(=NC=C(C2)OCCCCl)N1 | C13H15ClN2O3
reactant | potassium carbonate | 0.85 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.71 mmol, 0.12 g | [I-].[K+]
reactant | piperidine | 0.85 mmol, 84 ml, 72 μg | N1CCCCC1 | C5H11N
product | 5-(3-Piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Ethyl Ester | 0.16 g, 68% | C(C)OC(=O)C1=CC=2C(=NC=C(C2)OCCCN2CCCCC2)N1 | C18H25N3O3
